US05750531
Synthesis of 4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-6-propyl-2-(4-fluorophenylamino)pyrimidine hydrochloride
After 4-fluoroaniline(0.27 ml, 2.85 mmol) was added to a mixture solution of 4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-6-propyl-2-chloropyrimidine(0.5 g, 1.66 mmol) and dimethylformamide(5 ml), 0.3 g of the titled compound was obtained in accordance with the same procedure as in Step 2 of Example 1.

reactant | 4-fluoroaniline | 2.85 mmol, 0.27 ml | FC1=CC=C(N)C=C1 | C6H6FN
reactant | 4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-6-propyl-2-chloropyrimidine | 1.66 mmol, 0.5 g | CC1N(CCC2=CC=CC=C12)C1=NC(=NC(=C1)CCC)Cl | C17H20ClN3
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-6-propyl-2-(4-fluorophenylamino)pyrimidine hydrochloride | 0.3 g, Yield: 43.8% | Cl.CC1N(CCC2=CC=CC=C12)C1=NC(=NC(=C1)CCC)NC1=CC=C(C=C1)F | InChI=1S/C23H25FN4.ClH/c1-3-6-20-15-22(27-23(26-20)25-19-11-9-18(24)10-12-19)28-14-13-17-7-4-5-8-21(17)16(28)2;/h4-5,7-12,15-16H,3,6,13-14H2,1-2H3,(H,25,26,27);1H
